US08080568B1
Preparation of 3-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)benzonitrile (Example 145)
To a stirred solution of 1-((1,2,4)triazolo(1,5-a)pyridin-6-yl)-2-(6-methylpyridin-2-yl)ethane-1,2-dione (4.00 g, 15.02 mmol) in a mixture of tert-butyl methyl ether (30 mL) and MeOH (30 mL) were added 3-(fomylmethyl)benzonitrile (prepared according to the method described in WO 02/096875 A1) (6.54 g, 45.07 mmol) and NH4OAc (11.58 g, 150.24 mmol), and the mixture was stirred at room temperature for 90 min. The pH of the mixture was adjusted to 8 with saturated aqueous NaHCO3 solution. After removal of solvent, the mixture was extracted with EtOAc (2×150 mL), and the EtOAc solution was washed with water (50 mL) and brine (50 mL), dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of MeOH and CH2Cl2 (1:19 (v/v)) as eluent to give the titled compound (1.92 g, 33%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 12.70 (br s, 1H), 9.53 (br s, 1H), 8.49 (s, 1H), 7.96 (dd, 1H, J=9.2, 1.8 Hz), 7.84 (d, 1H, J=2.0 Hz), 7.82 (d, 1H, J=9.2 Hz), 7.74-7.71 (m, 2H), 7.69 (t, 1H, overlapped, J=7.6 Hz), 7.56 (t, 1H, J=7.8 Hz), 7.47 (br s, 1H), 7.15 (d, 1H, J=7.6 Hz), 4.18 (s, 2H), 2.47 (s, 3H); MS (ESI) m/z 392.18 (MH+).

reactant | 1-((1,2,4)triazolo(1,5-a)pyridin-6-yl)-2-(6-methylpyridin-2-yl)ethane-1,2-dione | 15.02 mmol, 4.00 g | N=1C=NN2C1C=CC(=C2)C(C(=O)C2=NC(=CC=C2)C)=O | C14H10N4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | tert-butyl methyl ether | 30 mL | COC(C)(C)C | C5H12O
solvent | MeOH | 30 mL | CO | CH4O
product | 3-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)benzonitrile | 1.92 g, 33% | N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)CC=2C=C(C#N)C=CC2 | C23H17N7
